US09403818B2
Preparation of methyl 8-(3-amino-1H-indazol-5-yl)-1-cyclopropyl-9-methyl-4-oxo-4H-quinolizine-3-carboxylate
Methyl 8-(3-amino-1H-indazol-5-yl)-1-cyclopropyl-9-methyl-4-oxo-4H-quinolizine-3-carboxylate was prepared according to General Procedure A from methyl 8-chloro-1-cyclopropyl-9-methyl-4-oxo-4H-quinolizine-3-carboxylate (100 mg, 0.34 mmol) and 5-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)-1H-indazol-3-amine (106.4 mg, 0.41 mmol). Purification by flash silica column chromatography (DCM:MeOH) (1:0 to 9:1) afforded the title compound as a yellow solid (32 mg, 42%).

reactant | methyl 8-chloro-1-cyclopropyl-9-methyl-4-oxo-4H-quinolizine-3-carboxylate | 0.34 mmol, 100 mg | ClC=1C=CN2C(C(=CC(=C2C1C)C1CC1)C(=O)OC)=O | C15H14ClNO3
reactant | 5-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)-1H-indazol-3-amine | 0.41 mmol, 106.4 mg | CC1(OB(OC1(C)C)C=1C=C2C(=NNC2=CC1)N)C | C13H18BN3O2
product | methyl 8-(3-amino-1H-indazol-5-yl)-1-cyclopropyl-9-methyl-4-oxo-4H-quinolizine-3-carboxylate | 32 mg, 42% | NC1=NNC2=CC=C(C=C12)C=1C=CN2C(C(=CC(=C2C1C)C1CC1)C(=O)OC)=O | C22H20N4O3
